US04410704
Synthesis of N-cyclohexylthio-N-cyclohexyl-5-chlorobenzothiazole-2-sulfonamide:
2.6 grams of cyclohexyl chlorosulfide (0.0172 mole) prepared as in Example 1 is added slowly to a stirred solution containing 5.4 grams (0.0163 mole) of N-cyclohexyl-5-chlorobenzothiazole-2-sulfonamide, and 2 grams of triethylamine (0.0178 mole) in 150 ml anhydrous dimethylformamide. The temperature is maintained between about 15° and 20° C. After stirring, 100 ml of chloroform is added and the reaction mixture is poured into 2 liters of ice water, and treated as in Example 5.

reactant | cyclohexyl chlorosulfide | 0.0172 mole, 2.6 grams | C1(CCCCC1)SCl | C6H11ClS
reactant | N-cyclohexyl-5-chlorobenzothiazole-2-sulfonamide | 0.0163 mole, 5.4 grams | C1(CCCCC1)NS(=O)(=O)C=1SC2=C(N1)C=C(C=C2)Cl | C13H15ClN2O2S2
reactant | triethylamine | 0.0178 mole, 2 grams | C(C)N(CC)CC | C6H15N
reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | N-cyclohexylthio-N-cyclohexyl-5-chlorobenzothiazole-2-sulfonamide | C1(CCCCC1)SN(S(=O)(=O)C=1SC2=C(N1)C=C(C=C2)Cl)C2CCCCC2 | C19H25ClN2O2S3
